US08008283B2
Azosemide can be reacted with benzyl chloromethyl ether, triethylamine and sodium iodide in DMF to yield 5-[1-(benzyloxymethyl)-1H-tetrazol-5-yl]-2-chloro-4-[(2-thienylmethyl)amino]benzenesulfonamide.

reactant | Azosemide | C=1C=C(SC1)CNC2=CC(=C(C=C2C3=NNN=N3)S(=O)(=O)N)Cl | C12H11ClN6O2S2
reactant | benzyl chloromethyl ether | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[1-(benzyloxymethyl)-1H-tetrazol-5-yl]-2-chloro-4-[(2-thienylmethyl)amino]benzenesulfonamide | C(C1=CC=CC=C1)OCN1N=NN=C1C=1C(=CC(=C(C1)S(=O)(=O)N)Cl)NCC=1SC=CC1 | C20H19ClN6O3S2
